US06603007B1
Synthesis of 3-(5,6-Diphenyl-2-pyridyl)pyridine (A-4)
In a 50-mL egg-plant flask, 1.0 ml of water, 0.99 g (9.5 mmole) of 3-cyanopyridine and 5.5 g (0.095 mole) of a hydrazine monohydrate were charged and they were reacted at 30° C. for 3 hours under stirring. After disappearance of raw materials was confirmed by HPLC analysis, 10 ml of toluene was added and from the resulting mixture, water and excess hydrazine were distilled off under reduced pressure. This operation was repeated three times in total. To the residue were added 5.5 ml of water and 5.5 ml of ethanol, followed by the addition of 2.0 g (9.5 mmole) of Benzil. The mixture was reacted for 2 hours at an external temperature of 100° C. To the reaction mixture was added 10 ml of toluene and the solvent was distilled off under reduced pressure. In 10 ml of xylene, 8.8 g (0.095 mole) of 2,5-norbornadiene was dissolved. The resulting solution was added to the residue, followed by reaction for 24 hours under reflux. After completion of the reaction, xylene and excess 2,5-norbornadiene were distilled off under reduced pressure. To the residue was added 10 ml of toluene and 2,5-norbornadiene was completely distilled off. The residue was purified by chromatography on a silica gel column, followed by recrystallization from hexane, whereby 1.8 g (yield: 63.2%) of the target compound was obtained as pale yellow crystals. The product was found to have a purity of 99.3%.

reactant | 3-cyanopyridine | 9.5 mmole, 0.99 g | C(#N)C=1C=NC=CC1 | C6H4N2
reactant | hydrazine monohydrate | 0.095 mole, 5.5 g | O.NN
reactant | hydrazine | NN | H4N2
reactant | Benzil | 9.5 mmole, 2.0 g | C1(=CC=CC=C1)C(=O)C(=O)C1=CC=CC=C1 | C14H10O2
reactant | 2,5-norbornadiene | 0.095 mole, 8.8 g | C12C=CC(C=C1)C2 | C7H8
solvent | xylene | 10 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 1.0 ml | O | H2O
product | 3-(5,6-Diphenyl-2-pyridyl)pyridine | 1.8 g, yield: 63.2% | C1(=CC=CC=C1)C=1C=CC(=NC1C1=CC=CC=C1)C=1C=NC=CC1 | C22H16N2
